US06054457
A solution of (S)-4-[2-[1-methyl-3-(phthalimido)prop-1-yl]oxybenzoyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (1.1 g) in methanol (30 ml) was stirred and treated with 40% methylamine in methanol (10 ml). The reaction mixture was refluxed for 30 minutes. Then the solvent was concentrated and purified by silica gel column chromatography (SiO2 40 g, chloroform/methanol/ammonia=90/10/0.5) to give (S)-4-[2-[(3-amino-1-methylprop-1-yl)oxy]benzoyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide.

reactant | (S)-4-[2-[1-methyl-3-(phthalimido)prop-1-yl]oxybenzoyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 1.1 g | C[C@@H](CCN1C(C=2C(C1=O)=CC=CC2)=O)OC2=C(C(=O)NC1=C(C=C(C(=O)N(C3=C(C=C(C=C3)C)OCCCCCC(=O)N3CCN(CC3)C)C)C=C1)OC)C=CC=C2 | C46H53N5O8
reactant | methylamine | CN | CH5N
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | (S)-4-[2-[(3-amino-1-methylprop-1-yl)oxy]benzoyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | NCC[C@H](C)OC1=C(C(=O)NC2=C(C=C(C(=O)N(C3=C(C=C(C=C3)C)OCCCCCC(=O)N3CCN(CC3)C)C)C=C2)OC)C=CC=C1 | C38H51N5O6
